US09428465B2
N-(2,2-diphenylethyl)-2,4-dioxo-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 1, starting from uracil (0.37 g, 3.34 mmol); 1.3 equivalents of 2,2-diphenylethyl isocyanate were used herein. The crude was taken up in dichloromethane; the title compound precipitated and was filtered off. The title compound (0.85 g, 76%) was isolated as white powder. 1H NMR (400 MHz, DMSO-d6): δ 3.97 (dd, J=8, 0, 5.5 Hz, 2H), 4.32 (t, J=7.9 Hz, 1H), 5.78 (d, J=8.4 Hz, 1H), 7.17-7.25 (m, 2H), 7.27-7.39 (m, 8H), 8.19 (d, J=8.4 Hz, 1H), 9.20 (t, J=5.5 Hz, 1H), 11.66 (s, 1H). 13C NMR (101 MHz, DMSO-d6): δ 44.93, 50.61, 103.98, 127.09, 127.18, 128.60, 138.79, 142.58, 142.91 150.27, 151.93, 161.03. MS (ESI) m/z: 334 [M-H]−.

reactant | uracil | 3.34 mmol, 0.37 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | 2,2-diphenylethyl isocyanate | 1.3 equivalents | C1(=CC=CC=C1)C(CN=C=O)C1=CC=CC=C1 | C15H13NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,2-diphenylethyl)-2,4-dioxo-pyrimidine-1-carboxamide | 0.85 g, 76% | C1(=CC=CC=C1)C(CNC(=O)N1C(NC(C=C1)=O)=O)C1=CC=CC=C1 | C19H17N3O3
